US06747046B2
230 mg of 2-(3′-fluoro-biphenyl-4-yl)-acetic acid is dissolved in 5 ml of tetrahydrofuran, mixed with 0.11 ml of oxalyl chloride and one drop of dimethylformamide, and stirred for 2 hours at room temperature. 62 mg of 1,4,5,6-tetrahydro-cyclopentapyrazol-3-yl-amine is added to this solution. The mixture is stirred for 12 hours at room temperature and then concentrated by evaporation. The residue is extracted with ethyl acetate. The extract is washed with sodium bicarbonate solution and water, dried on magnesium sulfate and concentrated by evaporation. The brown residue is dissolved in 5 ml of methanol and mixed with 0.1 ml of a 30% sodium methylate solution. It is stirred for 4 hours at room temperature and then concentrated by evaporation. The residue is extracted with ethyl acetate. The extract is washed with sodium bicarbonate solution and sodium chloride solution, dried on magnesium sulfate and concentrated by evaporation. A yellow, resinous oil is obtained that is purified by HPLC. 2-(3′-Fluoro-biphenyl-4-yl)-N-(1,4,5,6-tetrahydro-cyclopentapyrazol-3-yl)-acetamide with a melting point of 180-181° C. is obtained.

reactant | 2-(3′-fluoro-biphenyl-4-yl)-acetic acid | 230 mg | FC=1C=C(C=CC1)C1=CC=C(C=C1)CC(=O)O | C14H11FO2
reactant | oxalyl chloride | 0.11 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1,4,5,6-tetrahydro-cyclopentapyrazol-3-yl-amine | 62 mg | N1N=C(C2=C1CCC2)N | C6H9N3
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | dimethylformamide | one drop | CN(C=O)C | C3H7NO
product | 2-(3′-Fluoro-biphenyl-4-yl)-N-(1,4,5,6-tetrahydro-cyclopentapyrazol-3-yl)-acetamide | FC=1C=C(C=CC1)C1=CC=C(C=C1)CC(=O)NC1=NNC2=C1CCC2 | C20H18FN3O
